.SUBCKT 2input0xB_X2 A1 A2 VDD VSS Y
MM5 na2 A2 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 na2 A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM3 n1 na2 VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM2 Y A1 n1 VSS nmos_rvt w=92.0n l=16n nfin=4
MM1 Y na2 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM0 Y A1 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
.ENDS
